US08471005B2
4-Chloro-2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole (1.00 g, 4.00 mmol) was suspended in isopropyl alcohol (13 mL) at room temperature. Sodium borohydride (0.318 g, 8.41 mmol) was added and the reaction mixture was heated at 55° C. for 3 hours. The reaction was allowed to cool to room temperature, then aqueous NaHCO3/dichloromethane extraction work-up, drying and evaporation of solvent afforded 2-methylsulfanyl-3,4-dihydro-[1,2,4]triazino[1,6-a]indole. 1H-NMR (CDCl3) δ 7.63 (d, J=8.1 Hz, 1H), 7.52 (d, J=8.0 Hz, 1H), 7.18 (m, 1H), 7.08 (m, 1H), 6.15 (s, 1H), 4.73 (s, 2H), 4.63 (br s, 1H), 2.60 (s, 3H); LC/MS (ESI+): 218.5 (M+H). Benzene (30 mL) was added, and the solution was treated with manganese(IV) oxide (1.39 g, 16.0 mmol). The reaction mixture was stirred overnight. The solids were removed by filtration through Celite and were washed with dichloromethane. The solvent was removed under vacuum to afford 2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole (0.79 g, 92% over two steps), which was used in the next step without further purification. 1H-NMR (CDCl3) δ 9.05 (s, 1H), 8.15 (dd, J=8.5, 0.8 Hz, 1H), 7.86 (d, J=8.2 Hz, 1H), 7.47 (m, 1H), 7.39 (m, 1H), 6.99 (s, 1H), 2.68 (s, 3H); LC/MS (ESI+): 216.5 (M+H).

reactant | 4-Chloro-2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole | 4.00 mmol, 1.00 g | ClC1=NC(=NN2C1=CC1=CC=CC=C21)SC | C11H8ClN3S
reactant | Sodium borohydride | 8.41 mmol, 0.318 g | [BH4-].[Na+]
solvent | isopropyl alcohol | 13 mL | C(C)(C)O | C3H8O
product | 2-methylsulfanyl-3,4-dihydro-[1,2,4]triazino[1,6-a]indole | CSC1=NN2C(=CC3=CC=CC=C23)CN1 | C11H11N3S
